US08835633B2
[5-(5-Fluoro-4-methyl-1H-benzoimidazol-2-yl)-4-methyl-pyrimidin-2-yl]-[3-(1-methyl-piperidin-4-yl)-propyl]-amine
To a 2 L Erlenmeyer flask were added 4-fluoro-3-methyl-benzene-1,2-diamine.HCl (46.32 g, 262.3 mmol), Na2S2O5 (64.82 g, 341.0 mmol), and 4-methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbaldehyde (72.5 g, 262.3 mmol) in DMF (725 mL). To the resultant mixture was then added triethylamine (36.6 mL, 262.3 mmol), and the reaction was warmed on a hot plate with stirring to 90° C. and held at this temperature for 2 hours. The resultant mixture was then concentrated to near dryness and partitioned between dichloromethane (1 L) and 1 N NaOH (1 L). After separation of the layers, the aqueous layer was extracted a second time with dichloromethane (1 L). The combined organic layers were then washed with saturated aqueous NaHCO3 (1.6 L). The organics were then extracted with a 1 M mono/dibasic phosphate buffer (pH 5.62, 1.23 L). The aqueous layer was then basified with 50% NaOH (80 mL) to pH 10.8. The resultant heterogeneous layer was then extracted with dichloromethane (1.5 L and 500 mL), and the combined organics were concentrated to yield the title compound.

reactant | 4-fluoro-3-methyl-benzene-1,2-diamine | FC=1C(=C(C(=CC1)N)N)C | C7H9FN2
reactant | HCl | 262.3 mmol, 46.32 g | Cl | ClH
reactant | sodium metabisulfite | 341.0 mmol, 64.82 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbaldehyde | 262.3 mmol, 72.5 g | CC1=NC(=NC=C1C=O)NCCCC1CCN(CC1)C | C15H24N4O
reactant | triethylamine | 262.3 mmol, 36.6 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 725 mL | CN(C)C=O | C3H7NO
product | [5-(5-Fluoro-4-methyl-1H-benzoimidazol-2-yl)-4-methyl-pyrimidin-2-yl]-[3-(1-methyl-piperidin-4-yl)-propyl]-amine | FC1=C(C2=C(NC(=N2)C=2C(=NC(=NC2)NCCCC2CCN(CC2)C)C)C=C1)C | C22H29FN6
